US07087626B2
2-(3-Chloro-4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone
A dispersion of sodium hydride, (60% in mineral oil, 0.7 g, 17.7 mmol) is added to ethanol (25 mL). When gas evolution ceases, 3-chloro-4-fluorophenylacetonitrile (Fluorochemicals, 2.0 g, 11.8 mmol) and 6-methyl-pyridine-2-carboxylic acid methyl ester (1.8 g, 11.8 mmol), are added. The mixture is refluxed for 2.5 h and adjusted to pH 7 with 1 N hydrochloric acid. The mixture is concentrated in vacuo. Concentrated hydrochloric acid (50 mL) is added to the mixture after which it is refluxed for 1.5 h. The mixture is poured over ice and adjusted to pH 8 with 5 N sodium hydroxide. The mixture is extracted with methylene chloride and the organic portions dried over anhydrous sodium sulfate. The mixture is filtered and concentrated in vacuo to yield the title compound, 2.1 g (68%), as a yellowish solid.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-4-fluorophenylacetonitrile | 11.8 mmol, 2.0 g | ClC=1C=C(C=CC1F)CC#N | C8H5ClFN
reactant | 6-methyl-pyridine-2-carboxylic acid methyl ester | 11.8 mmol, 1.8 g | COC(=O)C1=NC(=CC=C1)C | C8H9NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(3-Chloro-4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone | ClC=1C=C(C=CC1F)CC(=O)C1=NC(=CC=C1)C | C14H11ClFNO
